US08895692B2
A reaction was carried out in the same manner as in Example 11, except that 2,7-dibromo-4,5-di(n-pentyl)benzo[2,1-b:3,4-b′]dithiophene (124.9 mg (0.26 mmol)) was used instead of 2,7-dibromo-4,5-di(n-propyl)benzo[2,1-b:3,4-b′]dithiophene. The post-reaction solution was charged with diethyl ether (about 20 mL), and the resultant solution was then washed with water. Subsequently, the organic layer was dried over sodium sulfate, and then filtered. The solvent was removed from the filtrate by distillation, and then the remaining solid was purified by thin-layer column chromatography using hexane as a developing solvent to obtain the target product 2,7-diphenyl-4,5-di(n-pentyl)benzo[2,1-b:3,4-b′]dithiophene as a yellow solid (83.8 mg, 67% yield). The obtained target product 1H-NMR and HRMS measurement results were as follows.

reactant | 2,7-dibromo-4,5-di(n-pentyl)benzo[2,1-b:3,4-b′]dithiophene | 0.26 mmol, 124.9 mg | BrC1=CC2=C(S1)C=1SC(=CC1C(=C2CCCCC)CCCCC)Br | C20H24Br2S2
reactant | diethyl ether | about 20 mL | C(C)OCC | C4H10O
product | 2,7-diphenyl-4,5-di(n-pentyl)benzo[2,1-b:3,4-b′]dithiophene | 83.8 mg, 67% yield | C1(=CC=CC=C1)C1=CC2=C(S1)C=1SC(=CC1C(=C2CCCCC)CCCCC)C2=CC=CC=C2 | C32H34S2
